US07943609B2
(S)-(−)-1,2-Diaminopropane (2.00 g, 13.6 mmol) and 1,8-diaxabicyclo[5.4.0]undec-7-ene (DBU) (4.46 mL, 28.8 mmol) were dissolved in dichloromethane (50 mL) and the solution was cooled to 0° C. under N2. In another flask, di-tert-butyl dicarbonate (2.96 g, 13.6 mmol) was dissolved in dichloromethane (50 mL), and the solution was slowly added to the reaction mixture via cannula. After stirring for 2 hours, the reaction mixture was treated with H2O (50 mL) and the layers were separated. The organic portion was discarded and the aqueous portion was made basic by the addition of 3 mL of concentrated, aqueous NH4OH solution and then extracted with CH2Cl2 (5×250 mL). The combined organic layers were dried over Na2SO4, filtered, and concentrated under reduced pressure. Chromatography (SiO2, 7% MeOH/CHCl3 saturated with concentrated, aqueous NH4OH solution) afforded tert-butyl (2S)-2-aminopropylcarbamate (0.50 g) as a colorless liquid.

reactant | (S)-(−)-1,2-Diaminopropane | 13.6 mmol, 2.00 g | NC[C@H](C)N | C3H10N2
reactant | undec-7-ene | 28.8 mmol, 4.46 mL | CCCCCCC=CCCC | C11H22
reactant | di-tert-butyl dicarbonate | 13.6 mmol, 2.96 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | H2O | 50 mL | O | H2O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | tert-butyl (2S)-2-aminopropylcarbamate | 0.50 g | N[C@H](CNC(OC(C)(C)C)=O)C | C8H18N2O2
